US07276518B2
N,N-Dimethyl-N′-[2-(5-methyl-1H-indol-3-yl)-ethyl]-1-phenyl-cyclohexane-1,4-diamine dihydrochloride, nonpolar diastereomer
5-Methyltryptamine (348 mg) and 4-dimethylamino-4-phenylcyclohexanone (435 mg) were dissolved in dry 1,2-dichloroethane (5 ml) and tetrahydrofuran (15 ml) with the exclusion of oxygen. Glacial acetic acid (114 μl) and sodium triacetoxyborohydride (600 mg) were added to this mixture and the mixture was stirred for 24 hours at RT. For working up, the mixture was concentrated, the residue was taken up in 1M HCl (20 ml) and diethyl ether (40 ml), the phases were separated, and the aqueous phase was extracted with diethyl ether (2×20 ml) and adjusted to pH 11 with 5M NaOH. The aqueous phase was diluted with water (10 ml) and extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried with Na2SO4 and concentrated. The residue was purified by chromatography with MeOH/NH3 (500:1). The nonpolar diastereomer (brown oil, 379 mg) was dissolved in 2-butanone (10 ml) and converted by addition of chlorotrimethylsilane (319 μl) into the corresponding dihydrochloride (white solid; 405 mg; m.p. 234-236° C.).

reactant | 5-Methyltryptamine | 348 mg | CC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2
reactant | 4-dimethylamino-4-phenylcyclohexanone | 435 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | oxygen | O=O | O2
reactant | sodium triacetoxyborohydride | 600 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 114 μl | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-N′-[2-(5-methyl-1H-indol-3-yl)-ethyl]-1-phenyl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.CN(C1(CCC(CC1)NCCC1=CNC2=CC=C(C=C12)C)C1=CC=CC=C1)C | InChI=1S/C25H33N3.2ClH/c1-19-9-10-24-23(17-19)20(18-27-24)13-16-26-22-11-14-25(15-12-22,28(2)3)21-7-5-4-6-8-21;;/h4-10,17-18,22,26-27H,11-16H2,1-3H3;2*1H
